US06787652B1
2-{3,5-Dichloro-4-[4-hydroxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl}-2H-[1,2,4]triazine-3,5-dione
To a cooled (0° C.), stirred solution of 2-{3,5-dichloro-4-[4-methoxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl}-2H-[1,2,4]triazine-3,5-dione (0.5 g) in dichloromethane (30 mL) was added boron tribromide (0.3 mL) and the resulting heterogeneous mixture was allowed to stir at room temperature for 6 h. Ice was added to the mixture and the resulting two-phase solution stirred for 1 h. Layers were separated and the organic phase was washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford an oil. Flash chromatography on silica gel (35% acetone/hexanes) afforded the title compound of this EXAMPLE as a colorless solid, 0.4 g. MS Calc.:513.4 Found:512.9.

reactant | 2-{3,5-dichloro-4-[4-methoxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl}-2H-[1,2,4]triazine-3,5-dione | 0.5 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)N1CCCCC1)Cl)N1N=CC(NC1=O)=O | C21H20Cl2N4O6S
reactant | boron tribromide | 0.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-{3,5-Dichloro-4-[4-hydroxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl}-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)S(=O)(=O)N1CCCCC1)Cl)N1N=CC(NC1=O)=O | C20H18Cl2N4O6S
